US04088652
Preparation of 3-Cyclopropylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane
To a solution of 15.9 g. of 1-phenyl-3-azabicyclo-[3.1.0]hexane in 100 ml. of benzene and 20 ml. of triethylamine is added 11.0 g. of cyclopropanecarboxylic acid chloride in 20 ml. of benzene over 5 minutes. The mixture is stirred for 30 minutes and 50 ml. of water is added. The benzene layer is extracted with dilute sodium bicarbonate followed by dilute hydrochloric acid and then water, dried over magnesium sulfate and evaporated to give the product as a brown oil.

reactant | 1-phenyl-3-azabicyclo-[3.1.0]hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | water | O | H2O
product | 3-Cyclopropylcarbonyl-1-phenyl-3-azabicyclo[3.1.0]hexane | C1(CC1)C(=O)N1CC2(CC2C1)C1=CC=CC=C1 | C15H17NO
